US07943776B2
N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-(pyridin-2-ylmethoxy)pyridine-2-carboxamide hydrobromide
Using an analogous procedure to that described in Example 36, N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5 -(pyridin-2-ylmethoxy)pyridine-2-carboxamide was reacted with hydrobromic acid to give the title compound; NMR Spectrum: (DMSOd6) 0.58 (m, 2H), 0.69 (m, 2H), 2.32 (s, 3H), 2.86 (m, 1H), 5.49 (s, 2H), 7.33 (m, 1H), 7.58 (m, 1H), 7.76 (m, 2H), 7.95 (m, 1H), 8.15 (m, 2H), 8.34 (m, 2H), 8.53 (m, 1H), 8.82 (m, 1H), 10.13 (s, 1H); Mass Spectrum: M+H+ 403.

reactant | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5 -(pyridin-2-ylmethoxy)pyridine-2-carboxamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(=O)C1=NC=C(C=C1)OCC1=NC=CC=C1)C | C23H22N4O3
reactant | hydrobromic acid | Br | BrH
product | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-(pyridin-2-ylmethoxy)pyridine-2-carboxamide hydrobromide | Br.C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(=O)C1=NC=C(C=C1)OCC1=NC=CC=C1)C | InChI=1S/C23H22N4O3.BrH/c1-15-5-6-16(22(28)26-17-7-8-17)12-21(15)27-23(29)20-10-9-19(13-25-20)30-14-18-4-2-3-11-24-18;/h2-6,9-13,17H,7-8,14H2,1H3,(H,26,28)(H,27,29);1H
